US08258144B2
N2-(1H-indazol-6-yl)-N4-(piperidin-4-yl)-7H-pyrrolo[2,3-d]pyrimidine-2,4-diamine
A solution of tert-butyl 4-(2-(1H-indazol-6-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)piperidine-1-carboxylate (4 mg, 0.009 mmol) in TFA (1 mL) was stirred at room temperature for 2 h. It was concentrated in vacuo. The residue was purified by reverse phase HPLC using a gradient of 3-30% CH3CN in water over 10 min. as eluents to give a powder (1 mg). MS 349.0 (M+H); UV 201.4, 242.6, 306.7 nm.

reactant | tert-butyl 4-(2-(1H-indazol-6-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)piperidine-1-carboxylate | 0.009 mmol, 4 mg | N1N=CC2=CC=C(C=C12)NC=1N=C(C2=C(N1)NC=C2)NC2CCN(CC2)C(=O)OC(C)(C)C | C23H28N8O2
solvent | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N2-(1H-indazol-6-yl)-N4-(piperidin-4-yl)-7H-pyrrolo[2,3-d]pyrimidine-2,4-diamine | 1 mg | N1N=CC2=CC=C(C=C12)NC=1N=C(C2=C(N1)NC=C2)NC2CCNCC2 | C18H20N8
